US08835409B2
Preparation of propan-2-yl 4,5,6-trichloropicolinate
Methyl 4,5,6-trichloropicolinate (prepared as in Balko, T. W. et al. U.S. Pat. No. 6,784,137 B2, Aug. 31, 2004; 14.19 g, 59.0 mmol) was slurried in 2-propanol (150 mL) in a 250 mL round bottom flask equipped with a Dean-Stark trap and a reflux condenser. Sulfuric acid (98% H2SO4; 8.07 g, 82 mmol) was added, and the reaction mixture was heated to reflux. After 20 h at reflux, the majority of the 2-propanol (100 mL) was distilled overhead. The remaining reaction mixture solidified upon cooling to room temperature. The resulting solid was stirred with EtOAc (500 mL) and satd aq NaHCO3 (500 mL). The organic layer was separated, washed with satd aq NaCl, and then filtered through Celite. The organic extract was concentrated to 150 mL by rotary evaporation. Hexane (100 mL) was added, and the solution was stored at −20° C. overnight. Crystals were collected, washed with hexane and dried in air (7.58 g, mp 104.6-105.7° C.). A second crop was obtained by concentration of the filtrate to give a total of 10.36 g (65%): 1H NMR (400 MHz, DMSO-d6) δ 8.23 (s, 1H, pyridine H), 5.16 (septet, J=6.3 Hz, 1H, CHMe2), 1.34 (d, J=6.3 Hz, 6H, CHMe2); 13C{1H} NMR (101 MHz, CDCl3) δ 161.9 (CO2R), 150.6, 145.9, 145.0, 133.1, 125.4 (C3), 70.7 (CHMe2), 21.7 (Me). Anal. Calcd for C9H8Cl3NO2: C, 40.26; H, 3.00; N, 5.22. Found: C, 40.25; H, 3.02; N, 5.22.

reactant | Methyl 4,5,6-trichloropicolinate | ClC1=CC(=NC(=C1Cl)Cl)C(=O)OC | C7H4Cl3NO2
reactant | Sulfuric acid | 82 mmol, 8.07 g | S(O)(O)(=O)=O | H2O4S
reactant | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
reactant | NaHCO3 | 500 mL | C(=O)(O)[O-].[Na+]
solvent | 2-propanol | 150 mL | CC(C)O | C3H8O
product | propan-2-yl 4,5,6-trichloropicolinate | ClC1=CC(=NC(=C1Cl)Cl)C(=O)OC(C)C | C9H8Cl3NO2
